US08791108B2
To a solution of ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (315 mg, 0.593 mmol) in EtOH (6 mL) was added 1N NaOH (0.712 mL, 0.712 mmol) and the resulting mixture was stirred at room temp for 4 h. A this point LCMS indicated completion of reaction. Then, the reaction mixture was concentrated and the residue diluted with water (3 mL), acidified with 1N HCl, extracted with ethyl acetate (25 mL), washed with brine (10 mL), dried (Na2SO4), filtered and concentrated to afford 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (230 mg, 0.457 mmol, 77% yield) as off-white solid (approx 2:1 mixture of mono and di-acid) which was used as is in the next step without further purification. LCMS (M+H)=503.3.

reactant | ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.593 mmol, 315 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=C(C3=C(OCCN3)C=C1)Cl)N=C(C2)C(=O)OCC)C | C26H31ClN4O6
reactant | NaOH | 0.712 mmol, 1N, 0.712 mL | [OH-].[Na+]
solvent | EtOH | 6 mL | CCO | C2H6O
product | 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(5-chloro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.457 mmol, 230 mg, 77% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=C(C3=C(OCCN3)C=C1)Cl)N=C(C2)C(=O)O)C | C24H27ClN4O6
